.SUBCKT 12AX7_DEMPWOLF 1 2 3 ; P G C
+ PARAMS: GK=2.242e-3 MU=103.2 GAMMA=1.26 CK=3.40
+ GG=6.177e-4 XI=1.314 CG=9.901 IG0=8.025e-8
+ CGK=2.3p CPG=2.4p CPK=0.9p
Ehk 4 0 VALUE={log(1+exp(CK*(V(1,3)/MU+V(2,3))))/CK}
Ehg 5 0 VALUE={log(1+exp(CG*V(2,3)))/CG}
Rhk 4 0 1G
Rhg 5 0 1G
Gp  1 3 VALUE={GK*pwr(V(4),GAMMA) - (GG*pwr(V(5),XI)+IG0)}
Ggr 2 3 VALUE={GG*pwr(V(5),XI)+IG0}
Rleak 1 3 1G
Cgk 2 3 {CGK}
Cpg 1 2 {CPG}
Cpk 1 3 {CPK}
.ENDS 12AX7_DEMPWOLF
